US04409017
A solution of 2-(dimethylamino)ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate in dichloromethane was added to a large excess of methyl iodide in dichloromethane. The mixture was stirred for 2 hrs at room temperature, then evaporated to give 2-dimethyl amino)ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate methyl iodide salt as yellow crystals mp 76° C.

reactant | 2-(dimethylamino)ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCCN(C)C)C)C=C1 | C23H25Cl2N3O3
reactant | methyl iodide | CI | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate methyl iodide salt | CI.ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | InChI=1S/C21H20Cl2N2O3.CH3I/c1-4-27-21(26)13(2)28-17-9-7-16(8-10-17)25(3)19-11-14-5-6-15(22)12-18(14)20(23)24-19;1-2/h5-13H,4H2,1-3H3;1H3
